US07595397B2
4-(4-Bromo-benzyl)-2-isopropyl-morpholine
The above compound could be made in the following manner: 1.5 eq. of 4-Bromobenzyl bromide and 1 eq. of 2-Isopropyl-morpholine in acetonitrile could be stirred at room temperature and 3 eq. of potassium carbonate could be added. The reaction could be stirred at room temperature overnight. The solution could be filtered through Celite and concentrated in vacuo to afford a brown solid. Purification could be done by flash chromatography to afford product.

reactant | 4-Bromobenzyl bromide | 1.5 eq. | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 2-Isopropyl-morpholine | 1 eq. | C(C)(C)C1CNCCO1 | C7H15NO
reactant | potassium carbonate | 3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(4-Bromo-benzyl)-2-isopropyl-morpholine | BrC1=CC=C(CN2CC(OCC2)C(C)C)C=C1 | C14H20BrNO
